US07326791B2
3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-[3-(pyrrolidin-1-ylmethyl)piperidin-1-ylcarbonyl]benzamide
Prepared analogously to Example 1d from 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide, 3-(pyrrolidin-1-ylmethyl)piperidine, TBTU, and triethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 3.05 minutes; C26H29Cl2N5O2 (514.45); mass spectrum: (M+H)+=514.2.

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
reactant | 3-(pyrrolidin-1-ylmethyl)piperidine | N1(CCCC1)CC1CNCCC1 | C10H20N2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-[3-(pyrrolidin-1-ylmethyl)piperidin-1-ylcarbonyl]benzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CC(CCC1)CN1CCCC1 | C26H29Cl2N5O2
